US05112594
Methylamine gas was bubbled through a solution of 4-hydroxymethylene-dihydro-2,2,5,5-tetramethyl-3(2H)furanone (5.0 g, 29 mmol) in 50 mL of chloroform for 30 min. The solvents were evaporated. The solid residue was recrystallized from hexanes to give 4.Og (74%) of dihydro-2,2,5,5-tetramethyl-4-methylaminomethylene-3(2H)furanone as a light yellow solid: mp 80°-82° C.; Anal Calc'd for C10H17NO2 : C, 65.57; H, 9.29; N, 7.65. Found: C, 65.47; H, 9.30; N, 7.60.

reactant | Methylamine | CN | CH5N
reactant | 4-hydroxymethylene-dihydro-2,2,5,5-tetramethyl-3(2H)furanone | 29 mmol, 5.0 g | OC=C1C(C(OC1(C)C)(C)C)=O | C9H14O3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | dihydro-2,2,5,5-tetramethyl-4-methylaminomethylene-3(2H)furanone | 74% | CC1(OC(C(C1=O)=CNC)(C)C)C | C10H17NO2
